US05491244
Moreover, in the case of benzoyl chloride, the resulting mixed anhydride is more reactive than benzoyl chloride. Thus, the carboxylate ion of acrylic acid preferentially reacts with the mixed anhydride to give acrylic anhydride and the benzoate ion, which subsequently reacts with unreacted benzoyl chloride to give benzoic anhydride, according to reaction scheme I.

reactant | benzoate | C(C1=CC=CC=C1)(=O)[O-]
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | benzoic anhydride | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
